US04318913
1-Methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
N-Cyano-N-[3-[3-[(dimethylamino)methyl]phenoxy]propyl]carbamimidothioic acid methyl ester (1.5 g) and N-methylhydrazine (1.2 g) in dimethylformamide (15 ml) were heated at 40° for 24 hours. The solvent was removed, and the residue was triturated with ether to yield the title compound as a white solid (1.0 g) m.p. 95°-96.5°.

reactant | N-Cyano-N-[3-[3-[(dimethylamino)methyl]phenoxy]propyl]carbamimidothioic acid methyl ester | 1.5 g | CSC(N(CCCOC1=CC(=CC=C1)CN(C)C)C#N)=N | C15H22N4OS
reactant | N-methylhydrazine | 1.2 g | CNN | CH6N2
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 1.0 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)N | C15H24N6O
